US07893062B2
a) rac-(3R,4S)-1-Benzyl-3-(4-fluoro-2-methyl-phenyl)-4-nitro-pyrrolidine (III-7)
A solution of N-(methoxymethyl)-N-(phenylmethyl)-N-(trimethylsilyl)methylamine (1.95 g, 8.21 mmol) in CH2Cl2 (30 ml) was added drop wise, over a 30 minutes period, to a stirred solution of 4-fluoro-2-methyl-1-((E)-2-nitro-vinyl)-benzene (1.49 g, 8.22 mmol) and trifluoroacetic acid (0.60 ml, 0.82 mmol) in CH2Cl2 (30 ml) at 0° C. The ice bath was removed, and the solution was stirred at 25° C. for an additional 48 h. It was then concentrated and purification by flash chromatography (SiO2, EtOAc/H 1:6) afforded 0.77 g (30%) of the title compound as a light yellow oil. ES-MS m/e: 315.2 (M+H+).

reactant | N-(methoxymethyl)-N-(phenylmethyl)-N-(trimethylsilyl)methylamine | 8.21 mmol, 1.95 g | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
reactant | 4-fluoro-2-methyl-1-((E)-2-nitro-vinyl)-benzene | 8.22 mmol, 1.49 g | FC1=CC(=C(C=C1)\C=C\[N+](=O)[O-])C | C9H8FNO2
reactant | trifluoroacetic acid | 0.82 mmol, 0.60 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | rac-(3R,4S)-1-Benzyl-3-(4-fluoro-2-methyl-phenyl)-4-nitro-pyrrolidine | 0.77 g, 30% | C(C1=CC=CC=C1)N1CC(C(C1)[N+](=O)[O-])C1=C(C=C(C=C1)F)C | C18H19FN2O2
